US07423030B2
24.3. 1-Chloro-7-methoxy-4-(4-trifluoromethylphenyl)phthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-methoxy-4-(4-trifluoromethylphenyl)-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-methoxy-4-(4-trifluoromethylphenyl)-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)C(F)(F)F | C16H11F3N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-4-(4-trifluoromethylphenyl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(F)(F)F | C16H10ClF3N2O
